US06051712
By cleavage of the 2,2,2-trichloroethyl carbamate and 2,2,2-trichloroethyl carbonate from 2,2,2-trichloro-ethyl (1RS,2RS,3RS,5RS)-3-(4-fluoro-phenyl)-2-(2,2,2-trichloro-ethoxy-carbonyloxy)-8-aza-bicyclo[3.2.1]octane-8-carboxylate in an analogous manner to that described in Example 12(d) there was obtained (1RS,2RS,3RS,5RS)-3-(4-fluoro-phenyl)-8-aza-bicyclo[3.2.1]octan-2-ol as a colourless solid; MS: 221 (M)+.

reactant | 2,2,2-trichloroethyl carbamate | C(N)(OCC(Cl)(Cl)Cl)=O | C3H4Cl3NO2
reactant | 2,2,2-trichloroethyl carbonate | C(OCC(Cl)(Cl)Cl)([O-])=O
reactant | 2,2,2-trichloro-ethyl (1RS,2RS,3RS,5RS)-3-(4-fluoro-phenyl)-2-(2,2,2-trichloro-ethoxy-carbonyloxy)-8-aza-bicyclo[3.2.1]octane-8-carboxylate | FC1=CC=C(C=C1)C1C(C2CCC(C1)N2C(=O)OCC(Cl)(Cl)Cl)OC(=O)OCC(Cl)(Cl)Cl | C19H18Cl6FNO5
product | (1RS,2RS,3RS,5RS)-3-(4-fluoro-phenyl)-8-aza-bicyclo[3.2.1]octan-2-ol | FC1=CC=C(C=C1)C1C(C2CCC(C1)N2)O | C13H16FNO
